US05334606
a) 3,3-Dicarboxy-4-(indol-3-yl)butanoic acid
Gramine (17.4 g) and triethyl 1,1,2-ethanetricarboxylate (24.6 g) were suspended in dry toluene. Sodium (0.05 g) was added and the stirred reaction was heated at reflux for six hours. The reaction mixture was cooled, washed with 2N hydrochloric acid (100 ml) and the organic layer was dried (MgSO4) and evaporated. The resulting brown oil was dissolved in ethanol (400 ml) and potassium hydroxide (56 g) was added. The reaction was heated to reflux for six hours, cooled, poured onto ice and acidified to pH1 with 5N hydrochloric acid. The mixture was saturated with sodium sulphate and extracted with ethyl acetate, dried (Na2SO4), filtered and evaporated. The resulting oil was crystallised from 1,2-dichloroethane (400 ml) to yield the title compound, mp 184°-185° C.; found: C, 55.33; H, 4.67; N, 4.32; C14H13NO6. 0.75(H2O) requires C, 55.17; H, 4.80; N, 4.60%.

reactant | Gramine | 17.4 g | CN(C)CC1=CNC2=C1C=CC=C2 | C11H14N2
reactant | triethyl 1,1,2-ethanetricarboxylate | 24.6 g | C(CC(=O)OCC)(C(=O)OCC)C(=O)OCC | C11H18O6
reactant | Sodium | 0.05 g | [Na] | Na
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,3-Dicarboxy-4-(indol-3-yl)butanoic acid | C(=O)(O)C(CC(=O)O)(CC1=CNC2=CC=CC=C12)C(=O)O | C14H13NO6
